US07618961B2
Ethyl (2-{[(4-bromo-2,5-difluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-bromo-2,5-difluorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (21.9 mg) with purity >90%. MS (pos) m/z 441.0, 443.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-bromo-2,5-difluorobenzenesulfonyl chloride | BrC1=CC(=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
product | Ethyl (2-{[(4-bromo-2,5-difluorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | BrC1=CC(=C(C=C1F)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)F | C13H11BrF2N2O4S2
